US06083908
N'-Acetylhydrazinecarboxylic acid tert-butyl ester(0.95 g, 5.45 mmol) was dissolved in methylene chloride (10 ml) and trifluoroacetic acid (10 ml) was added and the mixture was stirred at room temperature for 1 h. The mixture was concentrated in vavuo and stripped three times with methylene chloride to give 1.0 g of acetic acid hydrazide. Then (2R)-2-(tert-butoxycarbonylmethylamino)-3-phenyl propionic acid (0.76 g, 2.73 mmol) was dissolved in a mixture of dimethyl formamide (3 ml) and methylene chloride (6 ml) and a mixture of 1-hydroxy-7-azabenzotriazole (0.45 g, 3.28 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.62 g, 3.28 mmol) was added and stirred for 20 min. Then a mixture of acetic acid hydrazide (1.0 g, 5.45 mmol) and diisopropylethylamine (1.87 ml) was added and the mixture was stirred overnight. Ethyl acetate (50 ml) was added and the mixture was washed with water (50 ml). The aqueous layer was extracted with ethyl acetate (3×50 ml) and the combined organic layers were washed with water (2×50 ml) and brine (50 ml) and dried (MgSO4), filtered, concentrated to an oil, and chromatographed on silica (40 g) with heptane:ethyl acetate (1:1) to give 0.81 g of N-[(1R)-2-(N'-acetylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester as a yellow oil.

reactant | (2R)-2-(tert-butoxycarbonylmethylamino)-3-phenyl propionic acid | 2.73 mmol, 0.76 g | C(C)(C)(C)OC(=O)CN[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 3.28 mmol, 0.45 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.28 mmol, 0.62 g | Cl.C(C)N=C=NCCCN(C)C
reactant | acetic acid hydrazide | 5.45 mmol, 1.0 g | C(C)(=O)NN | C2H6N2O
reactant | diisopropylethylamine | 1.87 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | N-[(1R)-2-(N'-acetylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester | 0.81 g | C(C)(C)(C)OC(N(C)[C@@H](C(=O)NNC(C)=O)CC1=CC=CC=C1)=O | C17H25N3O4
